US07632838B2
To a solution of 4-{3-methyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-sulfonyl]-benzo[b]thiophen-5-yl}-piperazine-1-carboxylic acid tert-butyl ester (95 mg, 0.18 mmol) in DCM (4 mL) was added TFA (1 mL). The resultant mixture was stirred at ambient temperature for 3 hours. The solvent was removed under vacuum. The crude product was triturated with ether then water to give 1-(3-Methyl-5-piperazin-1-yl-benzo[b]thiophene-2-sulfonyl)-4-(3-trifluoromethyl-pyridin-2-yl)-piperazine as a light yellow solid (51 mg, 66%).

reactant | 4-{3-methyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-sulfonyl]-benzo[b]thiophen-5-yl}-piperazine-1-carboxylic acid tert-butyl ester | 0.18 mmol, 95 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(SC(=C2C)S(=O)(=O)N2CCN(CC2)C2=NC=CC=C2C(F)(F)F)C=C1 | C28H34F3N5O4S2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Methyl-5-piperazin-1-yl-benzo[b]thiophene-2-sulfonyl)-4-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 51 mg, 66% | CC=1C2=C(SC1S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C=CC(=C2)N2CCNCC2 | C23H26F3N5O2S2
